### PR TITLE
[Merged by Bors] - feat(AlgebraicTopology): basic API for subcomplexes of simplicial sets

### PR DESCRIPTION
**Pull request by joelriou**
This PR adds basic API for subcomplexes of simplicial sets: range, image, preimage, etc.

From https://github.com/joelriou/topcat-model-category

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicTopology/SimplicialSet/Subcomplex.lean [hunk 1]
```diff
@@ -63,6 +63,78 @@ abbrev ι (A : Subcomplex X) : Quiver.Hom (V := SSet) A X := Subpresheaf.ι A
...
+
+@[reassoc (attr := simp)]
+lemma homOfLE_ι : homOfLE h ≫ S₂.ι = S₁.ι := rfl
+
+instance mono_homOfLE : Mono (homOfLE h) := mono_of_mono_fac (homOfLE_ι h)
+
+/-- This is the isomorphism of simplicial sets corresponding to
+an equality of subcomplexes. -/
+@[simps]
+def isoOfEq (h : S₁ = S₂) : (S₁ : SSet.{u}) ≅ S₂ where
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/Subcomplex.lean]: Should this be called `eqToIso` to mimic `CategoryTheory.eqToIso`?

File: Mathlib/AlgebraicTopology/SimplicialSet/Subcomplex.lean [hunk 2]
```diff
@@ -105,8 +177,151 @@ instance [Mono f] : Mono (toRange f) :=
...
+    image (⨆ i, S i) f = ⨆ i, (S i).image f := by
+  aesop
+
+@[simp]
+lemma preimage_range : (range f).preimage f = ⊤ :=
+  le_antisymm (by simp) (by rw [← image_le_iff, image_top])
+
+@[simp]
+lemma image_le_range : A.image f ≤ range f := by
+  simp only [image_le_iff, preimage_range, le_top]
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/Subcomplex.lean]:
```suggestion
  simp [image_le_iff, preimage_range, le_top]
```

File: Mathlib/AlgebraicTopology/SimplicialSet/Subcomplex.lean (hunk 1 above)
Comment (joelriou) [reply Mathlib/AlgebraicTopology/SimplicialSet/Subcomplex.lean]: Thanks for the suggestion!

**Review by robin-carlier — COMMENTED** [review]
Thanks!

maintainer merge
